US05073564
A stirred solution of 5.0 grams (0.024 mole) of 4-trifluoromethylbenzthioamide, 4.4 grams (0.026 mole) of bromoacetaldehyde dimethyl acetal, and 4 drops of concentrated hydrochloric acid in 50 ml of ethanol was heated at reflux for 18 hours. After this time the reaction mixture was subjected to column chromatography on silica gel. Elution was accomplished using 20% ethyl acetate in hexane. The appropriate fractions were combined and concentrated under reduced pressure, yielding 3.3 grams of 2-(4-trifluoromethylphenyl)thiazole. The nmr spectrum was consistent with the proposed structure. The reaction was repeated several times.

reactant | 4-trifluoromethylbenzthioamide | 0.024 mole, 5.0 grams | FC(C1=CC=C(C(N)=S)C=C1)(F)F | C8H6F3NS
reactant | bromoacetaldehyde dimethyl acetal | 0.026 mole, 4.4 grams | COC(CBr)OC | C4H9BrO2
catalyst | hydrochloric acid | 4 drops | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(4-trifluoromethylphenyl)thiazole | 3.3 grams | FC(C1=CC=C(C=C1)C=1SC=CN1)(F)F | C10H6F3NS
